US07378135B2
(4-(6-Hydroxyhexyloxy)phenyl)propionic acid (200 g), N,N-dimethylaniline (100 g) and BHT (0.3 g) were dissolved in dioxane (1,000 mL). Acrylic acid chloride (74.3 g) was added dropwise thereto over 10 minutes, followed by agitating at 60° C. for 5 hours. The reaction solution was poured into water, to which ethyl acetate was added, followed by agitating. The ethyl acetate layer was separated, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off from the ethyl acetate layer to obtain a solid product. The solid product was dissolved in toluene and reprecipitated by pouring into a large amount of heptane to obtain 213 g of (4-(6-acryloyloxyhexyloxy)phenyl)propionic acid. (Melting point: 64 to 68° C.)

reactant | (4-(6-Hydroxyhexyloxy)phenyl)propionic acid | 200 g | OCCCCCCOC1=CC=C(C=C1)C(C(=O)O)C | C15H22O4
reactant | N,N-dimethylaniline | 100 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | Acrylic acid chloride | 74.3 g | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
solvent | dioxane | 1,000 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(6-acryloyloxyhexyloxy)phenyl)propionic acid | 213 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(C(=O)O)C | C18H24O5
